*  TNOM:             25 degree
*  Pin Assign:       1=Drain 2=Gate 3=Source
*
.SUBCKT TPH1R306P1 1 2 3
M0 1 22 3 3 smsmosfet
+ L = 1.1u
+ W = 8
+ AD = 8u
+ AS = 8u
+ PD = 16
+ PS = 16
D0 3 1 DDS1
D1 3 1 DDS2
D2 2 10 DGS1
D3 3 10 DGS2
R2 10 2 1E+009
R3 10 3 1E+009
RG 2 22 2.2
.MODEL smsmosfet NMOS
+ LEVEL = 7
+ MOBMOD = 1
+ CAPMOD = 3
+ NOIMOD = 1
+ TOX = 3e-08
+ XJ = 1.5E-007
+ NCH = 1.7E+017
+ NGATE = 0
+ RSH = 0
+ TNOM = 25
+ VTH0 = 2.92
+ VOFF = -0.3
+ NFACTOR = 2.2
+ U0 = 1632
+ K1 = 0.5
+ K2 = 0
+ K3 = 80
+ K3B = 0
+ W0 = 2.5E-006
+ NLX = 1.74E-007
+ DVT0 = 2.2
+ DVT1 = 0.53
+ DVT2 = -0.032
+ DVT0W = 0
+ DVT1W = 5.3E+006
+ DVT2W = -0.032
+ DWG = 0
+ DWB = 0
+ UA = 3.6884e-09
+ UB = 5.87E-019
+ UC = -4.65E-011
+ VSAT = 87851
+ A0 = 14.2527
+ AGS = 1.161
+ B0 = 0
+ B1 = 0
+ KETA = -0.047
+ A1 = 0
+ A2 = 1
+ DELTA = 0.047332
+ RDSW = 5450
+ PRWG = 0
+ PRWB = 0
+ WR = 1
+ CDSC = 2.4E-004
+ CDSCD = 0
+ CDSCB = 0
+ CIT = 0
+ ETA0 = 0.15595
+ ETAB = -0.07
+ DSUB = 0.56
+ PCLM = 7.1612
+ PDIBLC1 = 0.4145
+ PDIBLC2 = 0.12934
+ PDIBLCB = 0
+ DROUT = 0.56
+ PSCBE1 = 4.24E+008
+ PSCBE2 = 1E-009
+ PVAG = 0
+ ALPHA0 = 0
+ ALPHA1 = 0
+ BETA0 = 30
+ NJ = 1
+ JS = 0
+ XPART = 0
+ CGSO = 1e-09
+ CGDO = 1e-11
+ CGBO = 0
+ CGDL = 1e-09
+ CGSL = 1e-09
+ CKAPPA = 0.56
+ CF = 0
+ CLC = 1E-007
+ CLE = 0.6
+ VOFFCV = 0
+ NOFF = 1
+ DLC = 0
+ ACDE = 1
+ MOIN = 15
+ CJ = 0
+ CJSW = 1E-012
+ CJSWG = 1E-012
+ PB = 1
+ PBSW = 1
+ PBSWG = 1
+ MJ = 0.5
+ MJSW = 0.33
+ MJSWG = 0.33
+ AF = 1
+ EF = 1
+ KF = 0
+ UTE = -1.5
+ KT1 = -0.9
+ KT1L = 0
+ KT2 = 0.022
+ UA1 = 4.31E-009
+ UB1 = -7.61E-018
+ UC1 = -5.6E-011
+ AT = 33000
+ PRT = 13000
+ XTI = 3
+ TCJ = 0
+ TPB = 0
+ TCJSW = 0
+ TPBSW = 0
+ TCJSWG = 0
+ TPBSWG = 0
+ DWC = 3
.MODEL DDS1 D
+ TNOM = 25
+ IS = 3.1464e-11
+ RS = 0.00062492
+ N = 1.0979
+ CJO = 4.5e-09
+ VJ = 4
+ M = 0.68
+ XTI = 3
+ TT = 2.3e-08
+ BV = 60
+ IBV = 0.01
.MODEL DDS2 D
+ TNOM = 25
+ IS = 3.1464e-11
+ RS = 0.00062492
+ N = 1.0979
+ CJO = 1f
+ VJ = 0.7
+ M = 0.3
+ XTI = 3
+ TT = 2.3e-08
.MODEL DGS1 D
+ TNOM = 25
+ IS = 1f
+ CJO = 1f
.MODEL DGS2 D
+ TNOM = 25
+ IS = 1f
+ CJO = 1f
.ENDS


